US07595397B2
2-Pyridin-3-yl-4-(2′-chloro-biphenyl-4-ylmethyl)-morpholine
105 mg of 4-(4-Bromo-benzyl)-2-pyridin-3-yl-morpholine was combined with 74 mg of 2-Chlorophenyl boronic acid, 36 mg of tetrakis(triphenylphosphine)palladium(0), 1.055 mL of 2M sodium carbonate solution, 2.8 mL toluene and 1.4 mL ethanol. The reaction mixture was heated in a sealed tube at 120° C. overnight in an oil bath. The reaction mixture was filtered through Celite and concentrated in vacuo. The residue was purified by reverse phase HPLC. ES MS (+) m/z 365, 97% yield.

reactant | 4-(4-Bromo-benzyl)-2-pyridin-3-yl-morpholine | 105 mg | BrC1=CC=C(CN2CC(OCC2)C=2C=NC=CC2)C=C1 | C16H17BrN2O
reactant | 2-Chlorophenyl boronic acid | 74 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M, 1.055 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 2.8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 36 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
product | 2-Pyridin-3-yl-4-(2′-chloro-biphenyl-4-ylmethyl)-morpholine | 97% yield | N1=CC(=CC=C1)C1CN(CCO1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C22H21ClN2O
